US06090802
To a solution of 1-(4-nitrobenzyloxycarbonyl)-2-piperidinecarboxylic acid (1.54 g) in anhydrous acetonitrile (30 ml), N,N-carbonyldiimidazole (851 mg) was added at the room temperature, followed by stirring for one hour. The reaction mixture was allowed to react with a solution of (3S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine (931 mg) in anhydrous acetonitrile (15 ml) under ice cooling in a similar manner to that described in Referential Example 1-(1), whereby 1.81 g of (3S)-1-(tert-butoxycarbonyl)-3-[1-(4-nitrobenzyloxycarbonyl)piperidin-2-ylcarbonylamino]pyrrolidine were obtained as a colorless amorphous substance.

reactant | 1-(4-nitrobenzyloxycarbonyl)-2-piperidinecarboxylic acid | 1.54 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2C(CCCC2)C(=O)O)C=C1 | C14H16N2O6
reactant | N,N-carbonyldiimidazole | 851 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (3S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine | 931 mg | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (3S)-1-(tert-butoxycarbonyl)-3-[1-(4-nitrobenzyloxycarbonyl)piperidin-2-ylcarbonylamino]pyrrolidine | 1.81 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(=O)C1N(CCCC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H32N4O7
